US06030952
3-[3-Methyl-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylic acid.
A solution of ethyl 3-[3-methyl-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylate (320 mg, 0.74 mmol), water (40 μl) and sodium hydroxide (240 mg, 6 mmol) in THF is heated to reflux for 24 h. The reaction mixture is poured onto an AcOEt/water mixture, acidified to pH=1 with a concentrated hydrochloric acid solution, and extracted once with ethyl acetate. After separation the organic phase is washed twice with water, dried over magnesium sulphate and concentrated in vacuo at 40° C. in a rotary evaporator. The solid obtained is crystallized in heptane.

reactant | ethyl 3-[3-methyl-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylate | 0.74 mmol, 320 mg | CC1(COC2=C1C=C(C=C2)C=CC(=O)OCC)C2=CC=1C(CCC(C1C=C2C)(C)C)(C)C | C29H36O3
reactant | water | 40 μl | O | H2O
reactant | sodium hydroxide | 6 mmol, 240 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | AcOEt water | CCOC(=O)C.O
product | 3-[3-Methyl-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylic acid | CC1(COC2=C1C=C(C=C2)C=CC(=O)O)C2=CC=1C(CCC(C1C=C2C)(C)C)(C)C | C27H32O3
